US05834468
Stannous chloride dihydrate (22.5 g, 0.1M) was added in one portion to .a stirred mixture of N-ethyl-5-bromo-2-nitrobenzylamine (8.5 g, 32.8 mmol) and 36% hydrochloric acid (20 ml, 0.22M) in ethanol (250 ml) at ambient temperature. There was an exothermic reaction (50° C.) and a yellow solution formed, which was stirred for 1 hour allowing it to cool. The solvent was evaporated at reduced pressure and the residue dissolved in ethanol (100 ml) and stirred while diluting with ether (200 ml) until crystallisation occurred. The yellow solid was filtered off and washed with ether to give N-ethyl-5-bromo-2-aminobenzylamine as a salt, from which the free base was isolated by stirring with 2N sodium hydroxide solution (150 ml) and extracting into ether. The organic layer was dried over anhydrous magnesium sulphate and evaporated to give an oil (4.2 g).

reactant | N-ethyl-5-bromo-2-nitrobenzylamine | 32.8 mmol, 8.5 g | C(C)NCC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C9H11BrN2O2
reactant | hydrochloric acid | 0.22M, 20 ml | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N-ethyl-5-bromo-2-aminobenzylamine | C(C)NCC1=C(C=CC(=C1)Br)N | C9H13BrN2
